US08685969B2
6. 6-Methylisobenzofuran-1(3H)-one
A heterogeneous, colorless solution of methyl 2-(bromomethyl)-5-methylbenzoate and regioisomer (27.2 mmol) and calcium carbonate (16.33 g, 163 mmol) in 1,4-dioxane (194 mL) and water (194 mL) was refluxed. After 5 hr, the reaction was cooled to room temperature. The insolubles were filtered, and the filtrate was concentrated in vacuo. The residue was extracted with CH2Cl2 (2×200 mL). The organic layers were combined, dried over MgSO4, and concentrated in vacuo to give an oil which was purified by flash chromatography using an ISCO 220 g column eluting with 10-50% EtOAc/hexanes. Appropriate fractions were collected and concentrated in vacuo to give the desired product (1.205 g, 8.13 mmol, 29.9% yield) as a white solid.

reactant | methyl 2-(bromomethyl)-5-methylbenzoate | BrCC1=C(C(=O)OC)C=C(C=C1)C | C10H11BrO2
reactant | calcium carbonate | 163 mmol, 16.33 g | C([O-])([O-])=O.[Ca+2]
solvent | 1,4-dioxane | 194 mL | O1CCOCC1 | C4H8O2
solvent | water | 194 mL | O | H2O
product | 6-Methylisobenzofuran-1(3H)-one | 8.13 mmol, 1.205 g, 29.9% yield | CC1=CC=C2COC(C2=C1)=O | C9H8O2
